US05157026
A solution of 2-ethyl-7-methylimidazo[4,5-b]pyridine (28 g, 174 mmol) and m-chloroperbenzoic acid (80-90%, 44.6 g) in CHCl3 (300 mL) was heated at reflux for 0.5 hours. The mixture was concentrated and purified (SiO2, 100% CH2Cl2 gradient to 30% CH2Cl2 /MeOH) to give 29.8 g of 2-ethyl-7-methylimidazo[4,5-b]pyridine-4-oxide as a solid.

reactant | 2-ethyl-7-methylimidazo[4,5-b]pyridine | 174 mmol, 28 g | C(C)C=1NC=2C(=NC=CC2C)N1 | C9H11N3
reactant | m-chloroperbenzoic acid | 44.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-ethyl-7-methylimidazo[4,5-b]pyridine-4-oxide | 29.8 g | C(C)C=1NC=2C(=[N+](C=CC2C)[O-])N1 | C9H11N3O
